US05786330
STAGE A: N-Boc-4[((trifluoromethyl)sulfonyl)oxy]-L-phenylalanine benzyl ester
7.4 mmol of triethylamine are added dropwise to a solution containing 6.8 mmol of N-Boc-L-tyrosine benzyl ester and 7.4 mmol of phenyl bis((trifluoromethyl)sulfonyl)amine in 10 ml of dichloromethane cooled on an ice bath. The mixture is stirred for 1 hour at 0° C. and 2 hours at room temperature. After adding 60 ml of diethyl ether, the organic phase is washed with water, with 1N sodium hydroxide, with water, then with a saturated sodium chloride solution, dried and evaporated. The expected product is then obtained in the form of an oil, after purification by chromatography on a silica column using as eluent a pentane/ethyl acetate mixture (80/20).

reactant | triethylamine | 7.4 mmol | C(C)N(CC)CC | C6H15N
reactant | N-Boc-L-tyrosine benzyl ester | 6.8 mmol | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C21H25NO5
reactant | phenyl bis((trifluoromethyl)sulfonyl)amine | 7.4 mmol | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-Boc-4[((trifluoromethyl)sulfonyl)oxy]-L-phenylalanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C22H24F3NO7S
